US06664264B2
A round bottom flask was charged with a magnetic stir bar, benzenethiol (0.68 g, 6.21 mmol), sodium hydride (0.25 g, 60% dispersion, 6.21 mmol), and anhydrous dimethyl formamide (28 mL) under a nitrogen atmosphere. After the reaction mixture had stirred at ambient temperature for 30 minutes, 2-butyl-1-(3-chloropropyl)-1H-imidazo[4,5-c]quinolin-4-amine (1.64 g, 5.18 mmol) was added and the resulting cloudy solution was heated to 80° C. and maintained at 80° C. for 2.5 hours at which time the starting material was completely consumed. The hot solution was poured into rapidly stirred water (200 mL). The resulting mixture was extracted with chloroform (2×). The combined organic layers were washed with saturated aqueous sodium bicarbonate and brine, dried over anhydrous sodium sulfate, filtered and then concentrated under reduced pressure to afford a light yellow oil. The material was purified by chromatography over silica gel (95/5 dichloromethane/methanol) to provide 2-butyl-1-[3-(phenylthio)propyl]-1H-imidazo[4,5-c]quinolin-4-amine (1.38 g, 3.53 mmol) as a white solid.

reactant | benzenethiol | 6.21 mmol, 0.68 g | C1(=CC=CC=C1)S | C6H6S
reactant | sodium hydride | 6.21 mmol, 0.25 g | [H-].[Na+]
reactant | 2-butyl-1-(3-chloropropyl)-1H-imidazo[4,5-c]quinolin-4-amine | 5.18 mmol, 1.64 g | C(CCC)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCCl | C17H21ClN4
solvent | dimethyl formamide | 28 mL | CN(C=O)C | C3H7NO
product | 2-butyl-1-[3-(phenylthio)propyl]-1H-imidazo[4,5-c]quinolin-4-amine | 3.53 mmol, 1.38 g | C(CCC)C=1N(C2=C(C(=NC=3C=CC=CC23)N)N1)CCCSC1=CC=CC=C1 | C23H26N4S
